US06313122B1
C. 2-[[1-(4-Pyridyl)piperidin-4-ylcarbonyl]amino]-N-(3-fluorophenyl)benzamide hydrochloride
Using the procedure described in Example 138, N-(3-fluorophenyl)-2-aminobenzamide (1.3 mmol) and N-(4-pyridyl)isonipecotoyl chloride (2.6 mmol), purifying with RPHPLC Method D, yielded 402 mg (68%) of the title compound.

reactant | N-(3-fluorophenyl)-2-aminobenzamide | 1.3 mmol | FC=1C=C(C=CC1)NC(C1=C(C=CC=C1)N)=O | C13H11FN2O
reactant | N-(4-pyridyl)isonipecotoyl chloride | 2.6 mmol | N1=CC=C(C=C1)N1CCC(C(=O)Cl)CC1 | C11H13ClN2O
product | 2-[[1-(4-Pyridyl)piperidin-4-ylcarbonyl]amino]-N-(3-fluorophenyl)benzamide hydrochloride | 402 mg, 68% | Cl.N1=CC=C(C=C1)N1CCC(CC1)C(=O)NC1=C(C(=O)NC2=CC(=CC=C2)F)C=CC=C1 | InChI=1S/C24H23FN4O2.ClH/c25-18-4-3-5-19(16-18)27-24(31)21-6-1-2-7-22(21)28-23(30)17-10-14-29(15-11-17)20-8-12-26-13-9-20;/h1-9,12-13,16-17H,10-11,14-15H2,(H,27,31)(H,28,30);1H
